US07470713B2
4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(1-hydroxy-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one:
2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol (0.020 g, 0.053 mmol) was dissolved in N,N-dimethylformamide (4 mL) and treated with triethylamine (20 μL, 0.159 mmol) and the hydrochloric acid salt of (S)-2-amino-1-[3-chlorophenyl]ethanol (0.017 g, 0.0795 mmol). This mixture was heated at 65° C. for 3 hours, then the solvent was evaporated. The residue was purified by Prep HPLC (ammonium acetate/water/acetonitrile) to give the title material (0.006 g, 27%) as a beige solid. HPLC 87.9% (220 nm), LCMS (+ESI, M+H+) m/z 423; IR ν (cm−1): 2923, 2853, 1637; HRMS calcd for C22H20N4O3Cl (M+H)+=423.1224, found: 423.1221; 1H NMR (400 MHz, methanol-d4) δ (ppm): 3.56 (1H, dd, J=13.2 and 7.0 Hz), 3.69 (1H, dd, J=13.2 and 4.6 Hz), 4.96 (1H, m), 6.36 (1H, d, J=7.4 Hz), 7.22-7.79 (11H, m).

reactant | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-5-phenyl-imidazol-1-ol | 0.053 mmol, 0.020 g | IC1=C(C(=NC=C1)OC)C=1N(C(=CN1)C1=CC=CC=C1)O | C15H12IN3O2
reactant | triethylamine | 0.159 mmol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | (S)-2-amino-1-[3-chlorophenyl]ethanol | 0.0795 mmol, 0.017 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(1-hydroxy-5-phenyl-1H-imidazol-2-yl)-1H-pyridin-2-one | 0.006 g, 27% | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1N(C(=CN1)C1=CC=CC=C1)O)O | C22H19ClN4O3
